US07893090B2
4-(4-Fluoro-phenyl)-1H-pyrazole-3-carboxylic acid ethyl ester (2.4 g, 10 mmol) was added to an ice-cooled slurry of sodium hydride (0.82 g, 60% dispersion in mineral oil, 20 mmol) in DMF (20 ml), under argon. N,N-diisopropylethylamine (1.8 ml, 10 mmol) was added followed by 2-chloro-ethyl dimethylamine.HCl (1.48 g, 10 mmol) and potassium iodide (5 mg). The reaction mixture was stirred at room temperature for 16 h then at 80° C. for 48 h. 2N HCl and water were added and the product extracted with ethyl acetate (3×). The combined organics were washed with brine, dried (Na2SO4) and the solvent removed in vacuo. Chromatography (silica gel, 3-10% methanol-dichloromethane) afforded 2-(2-dimethylamino-ethyl)-4-(4-fluoro-phenyl)-1H-pyrazole-3-carboxylic acid ethyl ester (900 mg) and the title compound (630 mg).

reactant | 4-(4-Fluoro-phenyl)-1H-pyrazole-3-carboxylic acid ethyl ester | 10 mmol, 2.4 g | C(C)OC(=O)C1=NNC=C1C1=CC=C(C=C1)F | C12H11FN2O2
reactant | sodium hydride | 20 mmol, 0.82 g | [H-].[Na+]
reactant | N,N-diisopropylethylamine | 10 mmol, 1.8 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-chloro-ethyl dimethylamine | ClCCN(C)C | C4H10ClN
reactant | HCl | 10 mmol, 1.48 g | Cl | ClH
reactant | HCl | 2N | Cl | ClH
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | potassium iodide | 5 mg | [I-].[K+]
solvent | water | O | H2O
product | 2-(2-dimethylamino-ethyl)-4-(4-fluoro-phenyl)-1H-pyrazole-3-carboxylic acid ethyl ester | 900 mg | C(C)OC(=O)C1N(NC=C1C1=CC=C(C=C1)F)CCN(C)C | C16H22FN3O2
